US06936604B2
Following the method of Scheme AC, a mixture of 15.25 g of p-toluenesulfonyl isocyanate and 20 mL 50% solution of ethyl glyoxalate in toluene with 50 mL of toluene was heated under reflux for 36 h, then 10 mL of 1,3-cyclohexadiene were added as one portion. The reaction was heated for an additional 8 h and cooled down. The product was ppt from toluene, and was recrystallized from hexane ethyl acetate providing 13.0 g (50% yield) of the cycloadduct (see Scheme AC, Compound AC4) as white crystals: mp. 140-142° C.). The cycloadduct was mixed with 200 mg of 10% Pd/C, 150 mL of ethyl acetate and 150 mL of ethanol and was hydrogenated for 24 h at rt. The reaction mixture was filtered through celite and evaporated. The residual material was recrystallized from hexane ethyl acetate providing 12.0 g of the tosylate as white crystals (see Compound AC5, Scheme AC). NMR (CDCl3) 7.88 (d, J=8, 2H), 7.28 (d, J=8, 2H), 4.34 (d, J=2,1H), 4.22 (q, J=6, 2H), 3.62 (m, 1H), 2.42 (s, 3H), 2.22 (m, 1H), 2.00 (m, 1H), 1.80 (m, 1H), 1.70-1.30 (m, 6H), 1.28 (t, J=7, 3H). The tosylate (2.0 g) was dissolved in 50 mL EtOAc containing phenol (6.0 g), then 100 mL of 30% solution of HBr in AcOH was added dropwise. The reaction was allowed to stir 48 h, then EtOAc and most of the AcOH was evaporated under reduced pressure. The residue was dissolved in water, neutralized with Na2CO3 and extracted with Et2O. The organic solution was saturated using HCl and evaporated providing 0.85 g of a yellow solidified oil (see Compound AC6, Scheme AC).

reactant | p-toluenesulfonyl isocyanate | 15.25 g | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
reactant | ethyl glyoxalate | C(C=O)(=O)OCC | C4H6O3
reactant | 1,3-cyclohexadiene | 10 mL | C1=CC=CCC1 | C6H8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | hexane ethyl acetate | 13.0 g, 50% yield | C(C)OC(C)=O.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
